US06716843B2
(S)-1-[N5-{(Imino)-(propylsulphonylamino)-methyl}-ornithyl]-pyrrolidine Hydrochloride
Starting from (S)-N2-(benzyloxycarbonyl)-arginine, propanesulphonyl chloride and pyrrolidine, the expected product is obtained according to the procedure described in Example 1.

reactant | (S)-N2-(benzyloxycarbonyl)-arginine | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCCNC(N)=N)C(=O)O | C14H20N4O4
reactant | propanesulphonyl chloride | C(CC)S(=O)(=O)Cl | C3H7ClO2S
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | (S)-1-[N5-{(Imino)-(propylsulphonylamino)-methyl}-ornithyl]-pyrrolidine Hydrochloride | Cl.N=C(NCCC[C@H](N)C(=O)N1CCCC1)NS(=O)(=O)CCC | InChI=1S/C13H27N5O3S.ClH/c1-2-10-22(20,21)17-13(15)16-7-5-6-11(14)12(19)18-8-3-4-9-18;/h11H,2-10,14H2,1H3,(H3,15,16,17);1H/t11-;/m0./s1
